US07169592B2
The Arthrobacter species KNK168 strain was subjected to shaking culture by using (RS)-1-methylpropylamine as an inducer for enzyme in the same manner as Example 6. The cells harvested from 1 liter culture were suspended in 1 liter of 0.1 M Tris-hydrochloric acid buffer. Thereto were added a mixture of 30 g 1-(3-trifluoromethylphenyl)-2-propanone, 18 g (R)-1-phenylethylamine, and 44 g oleic acid (pH 8.5), and the resulting mixture was reacted at 30° C. for 40 hours. After reaction, the extraction and distillation were carried out in the same manner as in Example 6, to give 19.5 g (R)-1-(3-trifluoromethylphenyl)-2-aminopropane. The optical purity was 100% ee, and the yield was 65%.

reactant | (RS)-1-methylpropylamine | CC(CC)N | C4H11N
reactant | 1-(3-trifluoromethylphenyl)-2-propanone | 30 g | FC(C=1C=C(C=CC1)CC(C)=O)(F)F | C10H9F3O
reactant | (R)-1-phenylethylamine | 18 g | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
reactant | oleic acid | 44 g, pH 8.5 | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
solvent | Tris hydrochloric acid | 0.1 M, 1 liter | C(C(CO)(CO)N)O.Cl
product | (R)-1-(3-trifluoromethylphenyl)-2-aminopropane | 19.5 g, yield was 65% | FC(C=1C=C(C=CC1)C[C@@H](C)N)(F)F | C10H12F3N
